resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.010269
R2 0 n2 0.987576
R3 0 n4 1.016851
R4 n1 n3 1.003883
R5 n1 n5 1.010252
R6 n2 n3 0.990082
R7 n2 n6 1.019274
R8 n3 n7 1.016868
R9 n4 n5 1.003517
R10 n4 n6 1.008674
R11 n5 n7 1.006118
R12 n6 n7 1.018771
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
